2192-10-21 08:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2192-10-20**] 03:25 PM
 EKG - At [**2192-10-20**] 09:00 PM
   call-out to floor eventually once off pressors
   last night, manual non-invasive BP higher than A-line, so pressors
   eventually stopped but restarted due to
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-10-21**] 01:57 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-10-21**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-21**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 57 (50 - 76) bpm
   BP: 126/54(73) {74/31(46) - 132/91(173)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 14 (4 - 17)mmHg
   Total In:
                                                                  8,139 mL
                                                                    302 mL
   PO:
                                                                  2,640 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    999 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  5,145 mL
                                                                  1,770 mL
   Urine:
                                                                  3,145 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,994 mL
                                                                 -1,468 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: very pleasant, appropriate lady, smiling, in NAD.
   Not oriented at baseline, but very sociable and follows  commands. In
   No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, oropharynx clear, mucous
   membranes slightly dry
   Cardiovascular: bradycardic, normal S1, S2, no murmurs appreciated
   Respiratory / Chest: improved from prior exam, mild : Crackles : R > L
   base
   Abdominal: Soft, Non-tender, non-distended Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, no rashes or ecchymoses
   Neurologic: Attentive, Follows simple commands, gait not assessed
   Labs / Radiology
   232 K/uL
   10.6 g/dL
   98 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   8 mg/dL
   109 mEq/L
   141 mEq/L
   31.2 %
   8.1 K/uL
                            [**2192-10-20**]  04:51 AM
                            [**2192-10-20**]  11:03 AM
                            [**2192-10-20**]  05:28 PM
                             [**2192-10-21**]  04:19 AM
   WBC
   9.4
   8.1
   Hct
   33.3
   31.4
   31.2
   Plt
   233
   232
   Cr
   1.1
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   145
   98
   Other labs: PT / PTT / INR:11.8/22.5/1.0, CK / CKMB /
   Troponin-T:131/2/<0.01, Differential-Neuts:76.3 %, Lymph:15.0 %,
   Mono:6.6 %, Eos:1.9 %, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   78 y/o with dementia, urinary incontinence with fevers and back pain,
   presents with septic shock likely due to urosepsis from pyelonephritis
   as per radiographic evidence, clinically well.
   .
   1.. Urosepsis. Pyelonephritis suggested by CT abd and UA. Presistent
   hypotension requiring pressors.  Ran levophed overnight, currently off
   pressors and monitoring blood pressures. Previous CXR neg for
   infection. Non-focal neuro exam suggesting against meningitis.
   - F/u BCx, Ucx shows no growth.
   - continue IV CTX for 2-wk course
   - trend WBC
   - monitor UO with goal of > 0.5 ml/kg/hr
   - hold levophed for now, trend BP if stable > 24h consider floor
   call-out
   - Trend CVP for goal > 8
   - f/u LFTs
   - given mild PVC hold on IVF, allow autodiruesis
   - check CXR for pulmonary source of infection, given urine cx negative
   and still has septic/hypotensive presentation
   - check random cortisol levels
   .
   2. Chest pain- pt had episode of chest pain last night, EKGs were
   obtained; had brief run of wide-complex slow rhythm
   - plan to repeat EKG today
   - cycle cardiac enzymes
   3. Altered MS: Has baseline Dementia. Per husband usually oriented.
   Disoriented to time and place. Likely combination of baseline MS,
   infection, and delrium.
   -Avoid sedating meds.
   - frequent reorientation
   .
   4.  ARF: Cr improved from 1.1 to 0.9
   - trend Creatinine
   - no need for ulytes at this time
   .
   5 Constipation: Colace, senna, bisacodyl
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-10-20**] 06:41 AM
   18 Gauge - [**2192-10-20**] 06:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU then floor

2192-10-21 11:26:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2192-10-20**] 03:25 PM
 EKG - At [**2192-10-20**] 09:00 PM
   Pressors held at approx 8a, and maintaining BP so far.
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Patient unable to provide history: dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-10-21**] 01:57 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-10-21**] 07:46 AM
   Other medications:
   SQH, ceftriaxone, b12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-21**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37
C (98.6
   HR: 70 (50 - 76) bpm
   BP: 110/53(68) {74/31(46) - 132/91(173)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 4 (4 - 17)mmHg
   Total In:
                                                                  8,139 mL
                                                                    543 mL
   PO:
                                                                  2,640 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    999 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  5,145 mL
                                                                  2,080 mL
   Urine:
                                                                  3,145 mL
                                                                  2,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,994 mL
                                                                 -1,537 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   232 K/uL
   98 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   8 mg/dL
   109 mEq/L
   141 mEq/L
   31.2 %
   8.1 K/uL
        [image002.jpg]
                            [**2192-10-20**]  04:51 AM
                            [**2192-10-20**]  11:03 AM
                            [**2192-10-20**]  05:28 PM
                             [**2192-10-21**]  04:19 AM
   WBC
   9.4
   8.1
   Hct
   33.3
   31.4
   31.2
   Plt
   233
   232
   Cr
   1.1
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   145
   98
   Other labs: PT / PTT / INR:11.8/22.5/1.0, CK / CKMB /
   Troponin-T:131/2/<0.01, Differential-Neuts:76.3 %, Lymph:15.0 %,
   Mono:6.6 %, Eos:1.9 %, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   78-year-old woman with septic shock presumptively from urinary source.
    Although urine culture is negative, UA was suggestive and there are no
   other clinically identified sites of infection.
          Improved and now off pressors for about three hours, though
   though requiring fluid boluses
          Continue ceftriaxone
          Repeat CXR
          Check random cortisol
   Had an episode of chest pain last night, and brief run of wide-complex
   slow rhythm.
          Repeat EKG
          Cardiac enzymes
          [**Month (only) 51**] need further evaluation depending on results
   Although she looks remarkably well at bedside, she has been quite
   hypotense even with volume challenge and continues on norepinephrine.
   There is no evidence for meningitis, biliary disease, pneumonia, or
   other sources at present.  We will plan:
   ICU Care
   Nutrition: oral diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-20**] 06:40 AM
   Multi Lumen - [**2192-10-20**] 06:41 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-10-22 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -CXR was performed. Right lower lobe opacity is unchanged. Left lower
   lobe opacity has increased.  Started on PO Levofloxacin 750mg based on
   radiographic findings, even though clinically no evidence of PNA
   -CEs neg. this PM (x4)
   -Urine culture neg, MRSA screen and blood Cx pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-10-22**] 01:47 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-10-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-22**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 61 (54 - 80) bpm
   BP: 105/57(69) {83/40(51) - 117/63(73)} mmHg
   RR: 11 (11 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (4 - 11)mmHg
   Total In:
                                                                  2,683 mL
                                                                    123 mL
   PO:
                                                                  1,320 mL
   TF:
   IVF:
                                                                  1,363 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                    400 mL
   Urine:
                                                                  4,100 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,417 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: very pleasant, appropriate lady, smiling, in NAD.
   Not oriented at baseline, but very sociable and follows  commands. In
   No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, oropharynx clear, mucous
   membranes slightly dry
   Cardiovascular: bradycardic, normal S1, S2, no murmurs appreciated
   Respiratory / Chest: improved from prior exam, mild : Crackles : R > L
   base
   Abdominal: Soft, Non-tender, non-distended Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, no rashes or ecchymoses
   Neurologic: Attentive, Follows simple commands, gait not assessed
   Labs / Radiology
   242 K/uL
   11.4 g/dL
   95 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   112 mEq/L
   144 mEq/L
   33.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2192-10-20**]  04:51 AM
                            [**2192-10-20**]  11:03 AM
                            [**2192-10-20**]  05:28 PM
                             [**2192-10-21**]  04:19 AM
                             [**2192-10-21**]  02:55 PM
                             [**2192-10-22**]  05:26 AM
   WBC
   9.4
   8.1
   8.8
   Hct
   33.3
   31.4
   31.2
   33.7
   Plt
   233
   232
   242
   Cr
   1.1
   0.9
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   Glucose
   145
   98
   95
   Other labs: PT / PTT / INR:11.6/21.0/1.0, CK / CKMB /
   Troponin-T:78/2/<0.01, Differential-Neuts:76.3 %, Lymph:15.0 %,
   Mono:6.6 %, Eos:1.9 %, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   78 y/o with dementia, urinary incontinence with fevers and back pain,
   presents with septic shock likely due to urosepsis from pyelonephritis
   as per radiographic evidence, clinically well.
   .
   1.. Urosepsis. Pyelonephritis suggested by CT abd and UA. Presistent
   hypotension requiring pressors.  Ran levophed overnight, currently off
   pressors and monitoring blood pressures. Previous CXR neg for
   infection. Non-focal neuro exam suggesting against meningitis.
   - F/u BCx, Ucx shows no growth.
   - continue IV CTX for 2-wk course
   - trend WBC
   - monitor UO with goal of > 0.5 ml/kg/hr
   - hold levophed for now, trend BP if stable > 24h consider floor
   call-out
   - Trend CVP for goal > 8
   - f/u LFTs
   - given mild PVC hold on IVF, allow autodiruesis
   - check CXR for pulmonary source of infection, given urine cx negative
   and still has septic/hypotensive presentation
   - check random cortisol levels
   .
   2. Chest pain- pt had episode of chest pain last night, EKGs were
   obtained; had brief run of wide-complex slow rhythm
   - plan to repeat EKG today
   - cycle cardiac enzymes
   3. Altered MS: Has baseline Dementia. Per husband usually oriented.
   Disoriented to time and place. Likely combination of baseline MS,
   infection, and delrium.
   -Avoid sedating meds.
   - frequent reorientation
   .
   4.  ARF: Cr improved from 1.1 to 0.9
   - trend Creatinine
   - no need for ulytes at this time
   .
   5 Constipation: Colace, senna, bisacodyl
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-10-20**] 06:41 AM
   18 Gauge - [**2192-10-20**] 06:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU then floor

2192-10-22 12:16:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced left-sided chest pain this AM, without ECG changes.
   Denies dyspnea, cough.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-10-22**] 01:47 AM
   Levofloxacin - [**2192-10-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-10-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-10-22**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 83 (54 - 83) bpm
   BP: 97/50(61) {83/40(51) - 112/63(73)} mmHg
   RR: 19 (11 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 6)mmHg
   Total In:
                                                                  2,683 mL
                                                                    273 mL
   PO:
                                                                  1,320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,363 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                  1,060 mL
   Urine:
                                                                  4,100 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,417 mL
                                                                   -787 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   No CVAT
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   242 K/uL
   95 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   112 mEq/L
   144 mEq/L
   33.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2192-10-20**]  04:51 AM
                            [**2192-10-20**]  11:03 AM
                            [**2192-10-20**]  05:28 PM
                             [**2192-10-21**]  04:19 AM
                             [**2192-10-21**]  02:55 PM
                             [**2192-10-22**]  05:26 AM
   WBC
   9.4
   8.1
   8.8
   Hct
   33.3
   31.4
   31.2
   33.7
   Plt
   233
   232
   242
   Cr
   1.1
   0.9
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   Glucose
   145
   98
   95
   Other labs: PT / PTT / INR:11.6/21.0/1.0, CK / CKMB /
   Troponin-T:78/2/<0.01, Differential-Neuts:76.3 %, Lymph:15.0 %,
   Mono:6.6 %, Eos:1.9 %, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR ([**2192-10-22**]) evolving left retrocardiac infiltrate and
   pleural effusion
   Assessment and Plan
   78-year-old woman with septic shock presumptively from urinary
   source.   Although urine culture is negative, UA was suggestive and
   there are no other clinically identified sites of infection.
   SEPSIS -- clinically improved.  Continue current level of support.
   HYPOTENSION -- resolved.  Now off vasopressors.  Monitor BP.
   PULMONARY INFILTRATE -- left-sided chest pain, CXR with infiltrate, now
   concern for pneumonia.  Continue empirical antimicrobials.
   FLUIDS -- euvolemic.  Monitor I/O.  Maintain balance.
   MENTAL STATUS -- need to confirm baseline mental status with family.
   NUTRITIONAL SUPPORT
 Encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-20**] 06:40 AM
   Multi Lumen - [**2192-10-20**] 06:41 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill